US07414049B2
d) (R or S)-2-Hydroxy-N-[(S)-1-(2-hydroxy-ethyl)-2-oxo-5-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide
In an analogous procedure to that described in Example 8d), the hydrogenolysis of the first eluting epimer (R or S)-(−)-N-[(S)-1-(2-benzyloxy-ethyl)-2-oxo-5-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-2-hydroxy-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide using palladium on carbon (10%) as the catalyst yielded the title compound as a white foam (yield 75% of theory); MS (m/e): 551 (M+H)+.

reactant | (−)-N-[(S)-1-(2-benzyloxy-ethyl)-2-oxo-5-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-2-hydroxy-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | C(C1=CC=CC=C1)OCCN1C2=C(N(C[C@@H](C1=O)NC(C(C(=O)NCC(C(F)(F)F)(F)F)(C)O)=O)CC(F)(F)F)C=CC=C2 | C27H28F8N4O5
catalyst | palladium on carbon | [Pd] | Pd
product | 2-Hydroxy-N-[(S)-1-(2-hydroxy-ethyl)-2-oxo-5-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | yield 75% | OC(C(=O)N[C@H]1CN(C2=C(N(C1=O)CCO)C=CC=C2)CC(F)(F)F)(C(=O)NCC(C(F)(F)F)(F)F)C | C20H22F8N4O5
